US07504408B2
5-Chloro-7-iodo-1,3-benzodioxol-4-amine (1.0 g, 3.36 mmol) and 3-(2-methoxyethoxy)prop-1-yne (766 mg, 6.72 mmol) in ethyl acetate (12 ml) were cooled in ice-methanol, under an atmosphere of nitrogen, and then treated with bis(triphenylphosphine) palladium(II) dichloride (236 mg, 10 mol %) followed by copper(I) iodide (64 mg, 10 mol %) and diisopropylamine (681 mg, 6.74 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 2.5 hours and then filtered through Celite. The filtrate was purified by column chromatography on silica using a 1:1 mixture of methyl tert-butyl ether and iso-hexane as eluent to give 5-chloro-7-[3-(2-methoxyethoxy)prop-1-yn-1-yl]-1,3-benzodioxol-4-amine (816 mg, 86%) as a dark orange oil; solidified on standing; NMR Spectrum: (CDCl3) 3.40 (s, 3H), 3.58 (m, 2H), 3.74 (m, 2H), 4.06 (s, 2H), 4.42 (s, 2H), 6.01 (s, 2H), 6.88 (s, 1H).

reactant | 5-Chloro-7-iodo-1,3-benzodioxol-4-amine | 3.36 mmol, 1.0 g | ClC1=C(C2=C(OCO2)C(=C1)I)N | C7H5ClINO2
reactant | 3-(2-methoxyethoxy)prop-1-yne | 6.72 mmol, 766 mg | COCCOCC#C | C6H10O2
reactant | diisopropylamine | 6.74 mmol, 681 mg | C(C)(C)NC(C)C | C6H15N
solvent | ethyl acetate | 12 ml | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine) palladium(II) dichloride | 236 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper(I) iodide | 64 mg | [Cu]I
product | 5-chloro-7-[3-(2-methoxyethoxy)prop-1-yn-1-yl]-1,3-benzodioxol-4-amine | 816 mg, 86% | ClC1=C(C2=C(OCO2)C(=C1)C#CCOCCOC)N | C13H14ClNO4
